* D:\General Data\Files\Projects\1) Major Projects\SOAR PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N030 0 PULSE(0 48 0 10m 4m 200m 5 1)
V§BATT_1 N029 0 PULSE(0 16.8 0 10m 10m 500m 5 1)
V§BATT_2 N028 0 PULSE(0 16.8 0 10m 100m 10 11 1)
R1 UMBILICAL N027 10000
R2 N027 0 1200
C2 Umbilical_comparator 0 100n
A7 BATT_2_comparator LOGIC_POWER 0 0 0 0 N044 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A8 BATT_1_comparator LOGIC_POWER 0 0 0 N043 N040 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A9 Umbilical_comparator LOGIC_POWER 0 0 0 N039 Umbilical_gate_control_logic_output 0 SCHMITT Trise=20u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 5u
R8 N027 Umbilical_comparator 1000
B§UMBILICAL_Noise UMBILICAL N030 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N029 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N028 V=white(2e4*time) / 13
R3 BATT_1 N031 10000
R4 N031 0 4500
R6 BATT_2 N034 10000
R12 N034 0 4500
C7 N037 0 1n
C8 LOGIC_POWER 0 4.7µ Rser=1.5m
X§U1 LDO_POWER LOGIC_POWER LDO_POWER N037 LOGIC_POWER 0 ADM7170-5.0
A1 N039 0 0 0 N040 0 BATT_1_gate_control_logic_output 0 AND Vhigh = 5, Td = 33n, Tfall = 10u
A2 N039 0 N043 0 N044 0 BATT_2_gate_control_signal_logic_output 0 AND Vhigh = 5, Td = 33n, Tfall = 30n, Trise = 10u
C11 BATT_1_comparator 0 100n
R32 N031 BATT_1_comparator 1000
C12 BATT_2_comparator 0 100n
R33 N034 BATT_2_comparator 1000
D1 BATT_2 LDO_POWER D
D2 BATT_1 LDO_POWER D
D4 UMBILICAL LDO_POWER D
A4 N001 N005 N009 N010 0 0 N006 0 AND Vhigh = 5, Td = 9n
A5 Deny_Signal 0 Umbilical_gate_control_logic_output 0 N013 0 N012 0 AND Vhigh = 5, Td = 33n
A12 UMBILICAL OUTPUT_RAIL 0 0 0 0 N013 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A13 Deny_Signal 0 BATT_1_gate_control_logic_output 0 N017 0 N016 0 AND Vhigh = 5, Td = 33n
A14 BATT_1 OUTPUT_RAIL 0 0 0 0 N017 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A15 Deny_Signal 0 BATT_2_gate_control_signal_logic_output 0 N019 0 N018 0 AND Vhigh = 5, Td = 33n
A16 BATT_2 OUTPUT_RAIL 0 0 0 0 N019 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
M7 BATT_2_gate_control_signal N002 BATT_2_gate_control_signal_logic_output BATT_2_gate_control_signal_logic_output Si1555DL_P
A3 Umbilical_gate_control_signal 0 0 0 0 N001 0 0 BUF Vhigh = 5, Td = 9n
M1 BATT_1_gate_control_signal N003 BATT_1_gate_control_logic_output BATT_1_gate_control_logic_output Si1555DL_P
M6 Umbilical_gate_control_signal N004 Umbilical_gate_control_logic_output Umbilical_gate_control_logic_output Si1555DL_P
C10 RESET_GATE 0 9n
R36 RESET_GATE N014 5000
R16 N020 N014 1000
R38 N008 N007 330
R34 N002 SIGNAL_MOSFET 220
R35 N003 SIGNAL_MOSFET 220
R37 N004 SIGNAL_MOSFET 220
R48 SIGNAL_MOSFET 0 10000
M11 SIGNAL_MOSFET N008 LOGIC_POWER LOGIC_POWER Si1555DL_P
R5 N007 0 10000
A11 N006 0 N011 0 0 N007 Deny_Signal 0 DFLOP Vhigh = 5
A20 N006 RESET_CLK 0 0 0 0 N011 0 OR Vhigh = 5
D5 RESET_GATE N020 D
C15 RESET_CLK 0 17n
R39 RESET_CLK N014 5000
R40 N015 N014 1000
D6 RESET_CLK N015 D
A10 N012 0 N016 0 N018 0 N014 0 OR Vhigh = 5, Td = 33n
A6 BATT_1_gate_control_signal 0 0 0 0 N005 0 0 BUF Vhigh = 5, Td = 9n
A17 BATT_2_gate_control_signal 0 0 0 0 N009 0 0 BUF Vhigh = 5, Td = 9n
A18 RESET_GATE 0 0 0 0 N010 0 0 BUF Vhigh = 5, Td = 9n
R18 SIGNAL_MOSFET P001 220
C14 P001 0 1n
M14 N025 BATT_1_GATE N026 N026 Si7469DP
M15 OUTPUT_RAIL BATT_1_GATE N026 N026 Si7469DP
R42 N026 BATT_1_GATE 5000
C19 N026 BATT_1_GATE 10p
D7 BATT_1_GATE N026 EDZV13B
R43 BATT_1_GATE N032 650
M16 N032 N033 0 0 BSC047N08NS3
R44 BATT_1_GATE 0 10e5
R45 N033 BATT_1_gate_control_signal 220
R46 BATT_1_gate_control_signal 0 10000
C20 N033 0 10p
M10 N035 BATT_2_GATE N036 N036 Si7469DP
M12 OUTPUT_RAIL BATT_2_GATE N036 N036 Si7469DP
R19 N036 BATT_2_GATE 5000
C18 N036 BATT_2_GATE 10p
D3 BATT_2_GATE N036 EDZV13B
R20 BATT_2_GATE N041 650
M13 N041 N042 0 0 BSC047N08NS3
R41 BATT_2_GATE 0 10e5
R47 N042 BATT_2_gate_control_signal 220
R49 BATT_2_gate_control_signal 0 10000
C21 N042 0 10p
M17 N021 UMB_GATE N022 N022 Si7469DP
M18 OUTPUT_RAIL UMB_GATE N022 N022 Si7469DP
R50 N022 UMB_GATE 10000
C22 N022 UMB_GATE 10p
M19 N023 N024 0 0 BSC047N08NS3
R51 UMB_GATE 0 10e5
R52 N024 Umbilical_gate_control_signal 220
R53 Umbilical_gate_control_signal 0 10000
C23 N024 0 10p
D9 UMB_GATE N022 EDZV22B
R54 UMB_GATE N023 10000
R55 0 OUTPUT_RAIL 5
C1 N038 0 1µ
R7 N014 0 5000
R11 OUTPUT_RAIL N038 10
R§BATT2 N035 BATT_2 0.01
R§BATT1 N025 BATT_1 0.01
R§UMB N021 UMBILICAL 0.01
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* Need to switch all the output signals to not invert the signal
* common switch debouncing values
* ORing diodes or or gate, this needs to supply some current to turn on the transmission gate so idk?
* Maybe use transmission gates here or something (single rail transmission gates)
* If the propogation delay is high, then the and gate wont read a fast switch over event, maybe add some sort of delay so down time is more easier to detect.
* Any decoupling capacitors here?
* Voltage divider so when the umbilical falls below 30V this switches off
.lib ADM7170-5.0.sub
.backanno
.end
